US04447441
A mixture of 4-[4-aminopyrimid-2-ylthio]butyronitrile (0.25 g.), acetonitrile (3 ml.) and 2,2,2-trifluoroethyl isothiocyanate (0.21 g.) was stirred at 70° for 72 hours and then evaporated to dryness. The residue was crystallised from a mixture of ether and petroleum ether (b.p. 60°-80°) to give 4-[4-(3-[2,2,2-trifluoroethyl]thioureido)pyrimid-2-ylthio]butyronitrile (0.37 g.), m.p. 125°-126°.

reactant | 4-[4-aminopyrimid-2-ylthio]butyronitrile | 0.25 g | NC1=NC(=NC=C1)SCCCC#N | C8H10N4S
reactant | 2,2,2-trifluoroethyl isothiocyanate | 0.21 g | FC(CN=C=S)(F)F | C3H2F3NS
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 4-[4-(3-[2,2,2-trifluoroethyl]thioureido)pyrimid-2-ylthio]butyronitrile | 0.37 g | FC(CNC(NC1=NC(=NC=C1)SCCCC#N)=S)(F)F | C11H12F3N5S2
